US07550607B2
Preparation of 3-acetoxy-2-allyloxy-pent-4-enoic acid ethyl ester
To a solution of 2-allyloxy-3-hydroxy-pent-4-enoic acid ethyl ester (100 mg, 0.5 mmol) and DMAP (30 mg, 0.25 mmol) in CH2Cl2-Et3N (9:1, 10 mL) was added Ac2O (76 mg, 0.75 mmol). The resulting solution was stirred at ambient temperature for 1H. The solution was diluted with CH2Cl2 (40 mL), washed with H2O (20 mL×2), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography with 20% EtOAc-hexane.

reactant | 2-allyloxy-3-hydroxy-pent-4-enoic acid ethyl ester | 0.5 mmol, 100 mg | C(C)OC(C(C(C=C)O)OCC=C)=O | C10H16O4
reactant | Ac2O | 0.75 mmol, 76 mg | CC(=O)OC(=O)C | C4H6O3
catalyst | DMAP | 0.25 mmol, 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 Et3N | 10 mL | C(Cl)Cl.CCN(CC)CC
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-acetoxy-2-allyloxy-pent-4-enoic acid ethyl ester | C(C)OC(C(C(C=C)OC(C)=O)OCC=C)=O | C12H18O5
